US07109226B2
Synthesis of Ethyl 2-[3-[N-[3-(4-fluorophenoxy)propyl]aminomethyl]phenoxy]butyrate
Ethyl 2-(3-formylphenoxy)butyrate (5.0 g, 21.2 mmol) was dissolved in 1,2-dichloroethane (20 mL). Subsequently, 3-(4-fluorophenoxy)propylamine (4.65 g, 27.5 mmol) was added thereto, and the resultant mixture was stirred for 20 minutes. Subsequently, sodium triacetoxyborohydride (95%, 7.1 g, 31.8 mmol) and small amount of acetic acid were added thereto, and the mixture was stirred overnight at room temperature. A saturated aqueous sodium hydrogencarbonate solution was added thereto. The reaction mixture was extracted with chloroform, and the organic layer was washed with brine. The resultant mixture was subjected to drying over anhydrous sodium sulfate, concentration under reduced pressure, and purification by silica gel chromatography (chloroform/methanol=30/1), whereby the target compound was obtained (6.7 g, 81%).

reactant | Ethyl 2-(3-formylphenoxy)butyrate | 21.2 mmol, 5.0 g | C(=O)C=1C=C(OC(C(=O)OCC)CC)C=CC1 | C13H16O4
reactant | 3-(4-fluorophenoxy)propylamine | 27.5 mmol, 4.65 g | FC1=CC=C(OCCCN)C=C1 | C9H12FNO
reactant | sodium triacetoxyborohydride | 31.8 mmol, 7.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 2-[3-[N-[3-(4-fluorophenoxy)propyl]aminomethyl]phenoxy]butyrate | FC1=CC=C(OCCCNCC=2C=C(OC(C(=O)OCC)CC)C=CC2)C=C1 | C22H28FNO4
